US07220862B2
(±)-4-(2-Oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidine-1-carboxylic acid [2-[1,4′]bipiperidinyl-1′-yl-1-(4-hydroxy-2-oxo-2H-pyridin-1-ylmethyl)-2-oxo-ethyl]-amide
A stirred solution of 4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidine-1-carboxylic acid [1-(4-benzyloxy-2-oxo-2H-pyridin-1-ylmethyl)-2-[1,4′]bipiperidinyl1′-yl-2-oxo-ethyl]-amide (29 mg) and 10% palladium on charcoal (5 mg) in methanol (1 mL) was placed under an atmosphere of hydrogen. After 1 h at room temperature, the reaction was flushed with nitrogen, filtered through celite, and concentrated to give the product. 1H-NMR (CD3OD, 500 MHz) δ 1.40–1.85 (m, 12H), 2.04 (dd, J=27.4, 17.0, 2H), 2.66 (dd, J=21.1, 11.0, 1H), 2.80–3.19 (m, 8H), 3.95 (ddd, J=49.8, 12.5, 7.9, 1H), 4.07–4.28 (m, 3H), 4.34 (bs, 2H), 4.36–4.59 (m, 2H), 4.63 (bd, J=12.8, 1H), 5.20 (m, 1H), 5.75 (dd, J=7.3, 2.1, 1H), 5.97 (dd, J=8.9, 7.6, 1H), 6.78 (d, J=7.6, 1H), 6.93 (dd, J=7.6, 7.3, 1H), 7.08–7.18 (m, 2H), 7.33 (dd, J=18.3, 11.0, 1H). Mass spec.: 606.32 (MH)+.

reactant | 4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidine-1-carboxylic acid [1-(4-benzyloxy-2-oxo-2H-pyridin-1-ylmethyl)-2-[1,4′]bipiperidinyl1′-yl-2-oxo-ethyl]-amide | 29 mg | C(C1=CC=CC=C1)OC1=CC(N(C=C1)CC(C(=O)N1CCC(CC1)N1CCCCC1)NC(=O)N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O)=O | C39H49N7O5
catalyst | palladium on charcoal | 5 mg | [Pd] | Pd
solvent | methanol | 1 mL | CO | CH4O
product | (±)-4-(2-Oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidine-1-carboxylic acid [2-[1,4′]bipiperidinyl-1′-yl-1-(4-hydroxy-2-oxo-2H-pyridin-1-ylmethyl)-2-oxo-ethyl]-amide | N1(CCCCC1)C1CCN(CC1)C(C(CN1C(C=C(C=C1)O)=O)NC(=O)N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O)=O | C32H43N7O5
